* C:\Users\elima\OneDrive\Documents\GitHub\TPA3255_ClassD_PBTL\StartupCirc.asc
V1 N001 0 12
R1 N002 N001 47k
C1 N002 0 47u
M1 N004 N002 0 0 BSP89
R2 N001 N004 47k
M2 N003 N004 0 0 BSP89
D1 0 N004 BZX84C12L
R3 N001 N003 10k
.model D D
.lib C:\Users\elima\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\elima\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1 startup
.backanno
.end
